US04592866
2-(2-Chloroethyl)-2,3-dihydro-4-methylnaphth[2,1-f][1,4]oxazepine-5(4H)-thione
A mixture of 9.55 g of phosphorus pentasulfide and 9.5 g of potassium sulfide were ground together and added to a solution of 20.2 g (0.07 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylnaphth[2,1-f][1,4]oxazepin-5(4H)-one in 200 ml of dry toluene. The mixture was stirred and heated at reflux for 7 hr. The hot reaction mixture was filtered and the product crystallized from the cooled filtrate. Recrystallization from chloroform gave 18 g (84%) of yellow crystals, m.p. 167°-170° C.

reactant | phosphorus pentasulfide | 9.55 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | potassium sulfide | 9.5 g | [S-2].[K+].[K+]
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylnaphth[2,1-f][1,4]oxazepin-5(4H)-one | 0.07 mole, 20.2 g | ClCCC1OC2=C(C(N(C1)C)=O)C=CC1=CC=CC=C12 | C16H16ClNO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methylnaphth[2,1-f][1,4]oxazepine-5(4H)-thione | 18 g, 84% | ClCCC1OC2=C(C(N(C1)C)=S)C=CC1=CC=CC=C12 | C16H16ClNOS
